US05308826
To a 3-neck flask equipped with a dropping funnel, a thermometer, and a condenser with a drying tube were added 5 grams of 2-chloro-4-trifluoromethyl pyridine and 5 ml of ethylene glycol dimethyl ether. The mixture was cooled to -70° C. and 22 ml of LDA were slowly added with the temperature maintained below -55° C. The reaction mixture was stirred at -70° C. for 1.5 hours, and 3.5 ml of 2-trifluoromethyl benzaldehyde added. The reaction mixture was stirred in a dry-ice bath, then at room temperature over night. Fifteen ml of saturated aqueous ammonium chloride solution was added, the solvent stripped and the oil residue washed with water and extracted with methylene chloride (3 times). The combined methylene chloride layers were washed with brine, dried and stripped to yield a brown oil. The brown oil was put onto a silica gel column and eluted with a 1:1 mixture of hexane and diethyl ether to yield 6.2 grams of 2-chloro-3-(1-hydroxy-2'-trifluoromethyl-benzyl)-4-trifluoro methyl-pyridine.

reactant | 2-chloro-4-trifluoromethyl pyridine | 5 grams | ClC1=NC=CC(=C1)C(F)(F)F | C6H3ClF3N
reactant | LDA | 22 ml | [Li+].CC(C)[N-]C(C)C
reactant | 2-trifluoromethyl benzaldehyde | 3.5 ml | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | ammonium chloride | Fifteen ml | [Cl-].[NH4+]
reactant | ethylene glycol dimethyl ether | 5 ml | COCCOC | C4H10O2
product | 2-chloro-3-(1-hydroxy-2'-trifluoromethyl-benzyl)-4-trifluoro methyl-pyridine | 6.2 grams | ClC1=NC=CC(=C1CC1(C(C=CC=C1)C(F)(F)F)O)C(F)(F)F | C14H10ClF6NO
